US07498440B2
4-[hydroxy(diphenyl)methyl]-1-{3-[(3-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0608 g, 0.207 mmol) and 3-bromopropyl 3-nitrophenyl ether (0.0730 g, 0.281 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0942 g, 82.2%). EI-MS m/z 474(M+) Rt (2.04 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.207 mmol, 0.0608 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 3-nitrophenyl ether | 0.281 mmol, 0.0730 g | [N+](=O)([O-])C=1C=C(C=CC1)OCCCBr | C9H10BrNO3
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{3-[(3-nitrophenyl)oxy]propyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0942 g, 82.2% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC(=CC=C2)[N+](=O)[O-])(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H33N2O4.BrH/c32-29(24-9-3-1-4-10-24,25-11-5-2-6-12-25)28-15-19-31(20-16-28,21-17-28)18-8-22-35-27-14-7-13-26(23-27)30(33)34;/h1-7,9-14,23,32H,8,15-22H2;1H/q+1;/p-1
